US08431604B2
400 mg (2.51 mmol) N-1,3-thiazole-2-yl-thiourea were suspended in 20 ml of methanol and 392 mg (2.76 mmol) methyl iodide were added. The reaction mixture was stirred for 4 hours at reflux. Following removal of the solvent by vacuum distillation, the residue obtained was dissolved in 20 ml ethanol, 1.72 g (12.6 mmol) 2-methoxybenzylamine were added and the mixture was stirred for 20 hours at reflux. The solvent was removed on the rotovap. The residue was separated by preparative HPLC (RP-18 column, eluent water/acetonitrile/0.1% acetic acid) and 380 mg N-(2-methoxybenzyl)-N′-1,3-thiazole-2-ylguanidine were obtained.

reactant | N-1,3-thiazole-2-yl-thiourea | 2.51 mmol, 400 mg | S1C(=NC=C1)NC(=S)N | C4H5N3S2
reactant | methyl iodide | 2.76 mmol, 392 mg | CI | CH3I
reactant | 2-methoxybenzylamine | 12.6 mmol, 1.72 g | COC1=C(CN)C=CC=C1 | C8H11NO
solvent | methanol | 20 ml | CO | CH4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(2-methoxybenzyl)-N′-1,3-thiazole-2-ylguanidine | 380 mg | COC1=C(CNC(=N)NC=2SC=CN2)C=CC=C1 | C12H14N4OS
